US08008316B2
A. Preparation of 5-chloro-aceanthrylene-1,2-dione
Anhydrous aluminum chloride (3.5 g, 26.2 mmol) was added to a cold (0° C.) mixture of 1-chloroanthracene (3 g, 14.1 mmol) and oxalyl chloride (10 g, 78.8 mmol) in 30 ml of dry carbon disulfide. After stirring the reaction mixture under an argon atmosphere for two hours at 0° C., additional portions of anhydrous carbon disulfide (30 ml) and dry aluminum chloride (2.25 g, 18.7 mmol) were added. Stirring at 0° C. was continued for an additional two hours. Thereafter, an additional portion of anhydrous carbon disulfide (10 ml) was added, and stirring was continued overnight at room temperature. At the end of the reaction, the mixture was cooled to 0° C. and dilute hydrochloric acid was slowly added. An orange precipitate was collected, washed with water, and treated with 5% sodium hydroxide solution (150 ml). The insoluble solid was collected, washed with water, and air-dried. The crude material was purified by short-column filtration using silica gel and chloroform. Yield was 53%.

reactant | aluminum chloride | 26.2 mmol, 3.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-chloroanthracene | 14.1 mmol, 3 g | ClC1=CC=CC2=CC3=CC=CC=C3C=C12 | C14H9Cl
reactant | oxalyl chloride | 78.8 mmol, 10 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | aluminum chloride | 18.7 mmol, 2.25 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | carbon disulfide | 30 ml | C(=S)=S | CS2
solvent | carbon disulfide | 10 ml | C(=S)=S | CS2
solvent | carbon disulfide | 30 ml | C(=S)=S | CS2
product | 5-chloro-aceanthrylene-1,2-dione | Yield was 53% | ClC1=CC=C2C(C(C=3C4=CC=CC=C4C=C1C32)=O)=O | C16H7ClO2
